US07888364B2
50 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to benzo-1,2,3-thiadiazole-5-carboxylic acid via Procedure G. The crude product was purified via reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)benzo[d][1,2,3]thiadiazole-5-carboxamide. MS (Q1) 367 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 50 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | benzo-1,2,3-thiadiazole-5-carboxylic acid | S1N=NC2=C1C=CC(=C2)C(=O)O | C7H4N2O2S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)benzo[d][1,2,3]thiadiazole-5-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1C=CC2=C(N=NS2)C1)C1=NC=CC=C1 | C18H11ClN4OS
